US09120805B2
To a suspension of 142 mg (0.445 mmol) 6-(4-bromo-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one in 8 ml dichloromethane is added 52 μl (0.56 mmol) phosphorus tribromide. The reaction mixture is stirred for 20 hours at room temperature. The mixture is partitioned between water and dichloromethane. The organic phase is dried over sodium sulfate and evaporated. Purification by preparative HPLC (RP18 silica gel, eluent water/acetonitrile/formic acid) affords 2-bromomethyl-6-(4-bromo-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one as off-white solid; HPLC/MS 2.21 min (A), [M+H] 384.

reactant | 6-(4-bromo-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one | 0.445 mmol, 142 mg | BrC1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)CO)=O | C13H10BrN3O2
reactant | phosphorus tribromide | 0.56 mmol, 52 μl | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-bromomethyl-6-(4-bromo-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one | BrCC1=NN2C(C(NC(=C2)C2=CC=C(C=C2)Br)=O)=C1 | C13H9Br2N3O
